### PR TITLE
[Merged by Bors] - feat(PerfectRing): roots of `Polynomial.expand`

### PR DESCRIPTION
**Pull request by alreadydone**
Inspired by #9271

Prove the main theorem `rootMultiplicity_expand` and derive corollaries about `Polynomial.roots`. Refactor `rootsExpand(Pow)EquivRoots` using the new lemmas.

---

- [X] depends on: #10016

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Perfect.lean [hunk 1]
```diff
@@ -180,3 +180,34 @@ instance toPerfectRing (p : ℕ) [hp : Fact p.Prime] [CharP K p] : PerfectRing K
...
+      count_eq_card_filter_eq]; congr; ext
+  exact (frobeniusEquiv R p).eq_symm_apply.symm
+
+theorem roots_expand_pow :
+    (expand R (p ^ n) f).roots = p ^ n • f.roots.map (frobeniusEquiv R p).symm ^[n] := by
+  induction' n with n ih generalizing f; · simp
+  rw [pow_succ', expand_mul, ih, mul_smul, roots_expand,
+      Multiset.map_nsmul, Multiset.map_map, iterate_succ]
+
+theorem roots_expand_map_frobenius : (expand R p f).roots.map (frobenius R p) = p • f.roots := by
```
Comment (acmepjz) [inline Mathlib/FieldTheory/Perfect.lean:204]: Is it possible to add a version without requiring `PerfectRing R p`, which states that `(expand R p f).roots.map (frobenius R p) ≤ p • f.roots`? (Similarly, there should be a `rootsExpandToRoots` without requiring `PerfectRing R p` in #9271, but I forgot to added. It should state that `(expand R p f).roots.toFinset -> f.roots.toFinset`.)

**Review by acmepjz — COMMENTED** [review]
Looks good to me.

**Comment by acmepjz** [comment]
Looks like that this PR also depends on #10016.

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/FieldTheory/Perfect.lean:256]: Looks like that in order to state `roots_expand` without requiring perfect ring, `f.roots.map (frobeniusEquiv R p).symm` should be replaced by `f.roots.preimage' (frobenius R p) sorry` where `Multiset.preimage'` is the preimage of a multiset under the condition that its preimage as a set is finite (`Set.Finite`). Similar to `Finset.preimage` but with condition `Set.InjOn` replaced by `Set.Finite`.

File: Mathlib/FieldTheory/Perfect.lean [hunk 2]
```diff
@@ -232,3 +232,34 @@ theorem Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L] [Alge
...
+  simp [roots_expand, Multiset.map_nsmul]
+
+theorem roots_expand_pow_map_frobenius :
+    (expand R (p ^ n) f).roots.map (frobenius R p)^[n] = p ^ n • f.roots := by
```
Comment (alreadydone) [inline Mathlib/FieldTheory/Perfect.lean:260]:
```suggestion
    (expand R (p ^ n) f).roots.map (iteratedFrobenius R p n) = p ^ n • f.roots := by
```
probably the proof needs to be fixed ...

File: Mathlib/FieldTheory/Perfect.lean (hunk 1 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Perfect.lean:256]: It's probably not worth introducing a new def for this; it won't be computable, it's not clear it's useful elsewhere, and you'll need to develop APIs around it. Also I don't see why you wouldn't directly use `rootMultiplicity_expand`; it's the main theorem and the others are consequences provided for convenience, because they have compact statements. If the statement is too complicated it's probably not worth it. However I agree adding `(frobenius R p) ≤ p • f.roots` is a good idea and we should be satisfied with it for the non-perfect case.

**Comment by alreadydone** [comment]
I have merged #10016 into [this branch](https://github.com/leanprover-community/mathlib4/compare/master...roots_expand_merge) and it includes some additional material (WIP).

**Comment by acmepjz** [comment]
> I have merged #10016 into [this branch](https://github.com/leanprover-community/mathlib4/compare/master...roots_expand_merge) and it includes some additional material (WIP).

Oh OK. I have nothing to add into this PR; feel free to push your changes.

File: Mathlib/Data/Polynomial/Expand.lean [hunk 3]
```diff
@@ -43,6 +43,8 @@ theorem coe_expand : (expand R p : R[X] → R[X]) = eval₂ C (X ^ p) :=
 
 variable {R}
 
+theorem expand_eq_comp_X_pow {f : R[X]} : expand R p f = f.comp (X ^ p) := rfl
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/Expand.lean:46]:
```suggestion
theorem expand_eq_comp_X_pow (f : R[X]) : expand R p f = f.comp (X ^ p) := rfl
```

File: Mathlib/Data/Polynomial/Expand.lean [hunk 4]
```diff
@@ -275,6 +277,25 @@ end ExpChar
 
 end CommSemiring
 
+section rootMultiplicity
+
+variable {R : Type u} [CommRing R] {p n : ℕ} [ExpChar R p] {f : R[X]} {r : R}
```
Comment (riccardobrasca) [inline Mathlib/Data/Polynomial/Expand.lean:282]:
```suggestion
variable {R : Type u} [CommRing R] {p : ℕ} (n : ℕ) [ExpChar R p] (f : R[X]) (r : R)
```
seems better to me. Maybe even `p`, as in the other file.

File: Mathlib/FieldTheory/Perfect.lean [hunk 5]
```diff
@@ -250,3 +221,123 @@ theorem Algebra.IsAlgebraic.perfectField {K L : Type*} [Field K] [Field L] [Alge
...
+    toFinset_subset]
+  exact subset_of_le (roots_expand_pow_map_iterateFrobenius_le p n f)
+
+theorem roots_expand_image_frobenius_subset [DecidableEq R] :
+    (expand R p f).roots.toFinset.image (frobenius R p) ⊆ f.roots.toFinset := by
+  rw [← iterateFrobenius_one]
+  convert ← roots_expand_pow_image_iterateFrobenius_subset p 1 f
+  apply pow_one
+
+variable {p n f}
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Perfect.lean:261]: I think at least `f` should be explicit here, not sure for the other variables.

**Review by riccardobrasca — APPROVED** [review]

**Review by alreadydone — COMMENTED** [review]
Thanks for the reviews.

File: Mathlib/Data/Polynomial/Expand.lean (hunk 4 above)
Comment (riccardobrasca) [reply Mathlib/Data/Polynomial/Expand.lean:282]: I see your point, let's keep it like that.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
